US07183306B2
To a mixture of 4-(methylthio)aniline (6.3 g) and conc.HCl (45 ml) was added dropwise NaNO2 (3.6 g) in water (18 ml) under ice-cooling. After stirring for 30 min., SnC1H2O (28.6 g) in conc.HCl (24 ml) was added under ice cooling over 1 hour. After stirring for 1 hour, filtrate, washed with conc.HCl and water, and dried to give 14.1 g of [4-(methylthio)phenyl]hydrazine hydrochloride as a solid.

reactant | 4-(methylthio)aniline | 6.3 g | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | HCl | 45 ml | Cl | ClH
reactant | NaNO2 | 3.6 g | N(=O)[O-].[Na+]
reactant | HCl | 24 ml | Cl | ClH
solvent | water | 18 ml | O | H2O
product | [4-(methylthio)phenyl]hydrazine hydrochloride | 14.1 g | Cl.CSC1=CC=C(C=C1)NN | InChI=1S/C7H10N2S.ClH/c1-10-7-4-2-6(9-8)3-5-7;/h2-5,9H,8H2,1H3;1H
